US07285658B2
Step A. The Preparation of dichloromethylenediphosphonic acid bis(tributylammunium) salt
An aqueous solution of dichloromethylenediphosphonic acid disodium salt (1.0 g, 3.46 mmol) was loaded on a column of DOWEX 50WX8-100 ion-exchange resin and eluted with water. Tributylamine (1.65 mL, 6.92 mmol) was added and the mixture was shaken vigorously. The resulting solution was concentrated to dryness and coevaporated with anhydrous DMF three times. The residue was dried under vacuum overnight.

reactant | dichloromethylenediphosphonic acid disodium salt | 3.46 mmol, 1.0 g | [Na+].[Na+].ClC(P(O)(O)=O)(P([O-])([O-])=O)Cl
reactant | Tributylamine | 6.92 mmol, 1.65 mL | C(CCC)N(CCCC)CCCC | C12H27N
product | dichloromethylenediphosphonic acid | ClC(P(O)(O)=O)(P(O)(O)=O)Cl | CH4Cl2O6P2
